US08242085B2
((3aR,4R,6S,6aS)-6-(4-Aminofuro[3,2-d]pyrimidin-7-yl)-2-(4-chlorophenyl)-6a-methyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methanol
A suspension of (2S,3R,4R,5R)-2-(4-aminofuro[3,2-d]pyrimidin-7-yl)-5-(hydroxymethyl)-3-methyl-tetrahydrofuran-3,4-diol (281 mg, 1.0 mmol) in THF (4 mL) was treated with ZnCl2 (695 mg, 98%, 5 0 mmol) and 4-chlorobenzaldehyde (1.43 g, 10.0 mmol) followed by stirring at 60° C. for 14 h. The reaction mixture was quenched with aqueous 2N NaOH (6.5 mL) followed by dilution with water (80 mL), and extraction with CHCl3 (2×100 mL). The combined organic extracts were dried over MgSO4, filtered, and concentrated. The residue was purified on a silica gel column using chloroform/MeOH (1:0 to 20:1, Rf=0.31, CHCl3/MeOH=20:1) as eluent to give 224 mg (55%) of the desired product as a white solid. 1H NMR (MeOH-d4, a mixture of diastereoisomers): δ 8.23 (s, 1H), 8.22 (s, 1H), 7.72-7.50 (m, 4H), 7.44 (s, 2H), 6.16 (s, 1H), 5.47-5.41(m, 1H), 5.31 (s, 1H), 4.53 (d, J=3.1 Hz, 1H), 4.17-4.11 (m, 1H), 3.73-3.57 (m, 2H), 1.25 (s, 3H); MS (ES+): 404.3 (M+H)+.

reactant | (2S,3R,4R,5R)-2-(4-aminofuro[3,2-d]pyrimidin-7-yl)-5-(hydroxymethyl)-3-methyl-tetrahydrofuran-3,4-diol | 1.0 mmol, 281 mg | NC=1C2=C(N=CN1)C(=CO2)[C@@H]2O[C@@H]([C@H]([C@]2(O)C)O)CO | C12H15N3O5
reactant | 4-chlorobenzaldehyde | 10.0 mmol, 1.43 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
solvent | THF | 4 mL | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 0 mmol, 695 mg | [Cl-].[Cl-].[Zn+2]
product | ((3aR,4R,6S,6aS)-6-(4-Aminofuro[3,2-d]pyrimidin-7-yl)-2-(4-chlorophenyl)-6a-methyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methanol | 224 mg, 55% | NC=1C2=C(N=CN1)C(=CO2)[C@@H]2O[C@@H]([C@@H]1[C@]2(OC(O1)C1=CC=C(C=C1)Cl)C)CO | C19H18ClN3O5
